US07446102B2
Benzyl{(1S)-5-{[(benzyloxy)carbonyl]amino}-1-[2-({3-[(tert-butoxycarbonyl)amino]-2-hydroxypropyl}amino)-2-oxoethyl]pentyl}carbamate
418.2 mg (1.1 mmol) of HATU and 258.7 mg (2 mmol) of N,N-diisopropylethylamine are added to a solution of 428.5 mg (1 mmol) of (3S)-3,7-bis{[(benzyloxy)carbonyl]amino}heptanoic acid in 30 ml of anhydrous DMF. After stirring at RT for 15 min, 209.2 mg (1.1 mmol) of tert-butyl(3-amino-2-hydroxypropyl)carbamate are added. The reaction mixture is stirred at RT for 15 h. The solvent is then evaporated and the residue is taken up in dichloromethane. The organic phase is washed with water, dried over magnesium sulfate and concentrated. The crude product is purified by preparative HPLC.

reactant | HATU | 1.1 mmol, 418.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2 mmol, 258.7 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (3S)-3,7-bis{[(benzyloxy)carbonyl]amino}heptanoic acid | 1 mmol, 428.5 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](CC(=O)O)CCCCNC(=O)OCC1=CC=CC=C1 | C23H28N2O6
reactant | tert-butyl(3-amino-2-hydroxypropyl)carbamate | 1.1 mmol, 209.2 mg | C(C)(C)(C)OC(NCC(CN)O)=O | C8H18N2O3
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Benzyl{(1S)-5-{[(benzyloxy)carbonyl]amino}-1-[2-({3-[(tert-butoxycarbonyl)amino]-2-hydroxypropyl}amino)-2-oxoethyl]pentyl}carbamate | C(C1=CC=CC=C1)OC(N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)CC(=O)NCC(CNC(=O)OC(C)(C)C)O)=O | C31H44N4O8
